US06204264B1
(1) 4-Chloro-N,N-dimethyl-3-nitrobenzamide
Triethylamine (3.48 ml) was added to a solution containing 4-chloro-3-nitrobenzoic acid (5.04 g) in N,N-dimethylformamide (25 ml) while being cooled with ice, and then pivaloyl chloride (3.08 ml) was added thereto. The mixture was stirred for 15 minutes, and then dimethylamine hydrochloride (2.24 g) and triethylamine (3.83 ml) were added thereto. The reaction mixture was stirred for 15 minutes while being cooled with ice and futher stirred for 14 hours at room temperature, and then concentrated. The residue, with ethyl acetate added thereto, was washed with water, 1N sodium hydroxide aqueous solution and saturated brine successively, dried over sodium sulfate anhydride, and concentrated, thereby yielding the entitled compound (4.85 g) as yellow solid.

reactant | Triethylamine | 3.48 ml | C(C)N(CC)CC | C6H15N
reactant | 4-chloro-3-nitrobenzoic acid | 5.04 g | ClC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | pivaloyl chloride | 3.08 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | dimethylamine hydrochloride | 2.24 g | Cl.CNC
reactant | triethylamine | 3.83 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 4-Chloro-N,N-dimethyl-3-nitrobenzamide | 4.85 g | ClC1=C(C=C(C(=O)N(C)C)C=C1)[N+](=O)[O-] | C9H9ClN2O3
